data/mechanism_extracts/Tetrahedron/10.1016_j.tet.2007.10.104.json
{"doi": "10.1016_j.tet.2007.10.104", "journal": "Tetrahedron", "is_review": false, "rxn_class_summary": "Electrochemical carboxylation of cinnamate esters with CO2 at a metallic ring cathode with sacrificial Mg anode, affording benzylmalonate (dicarboxylic) and monocarboxylic ester products.", "mechanism_family": ["radical_cathodic", "sacrificial_anode", "radical_anion", "anion_initiated"], "electrochemical_role": "Cathodic one-electron reduction of the cinnamate ester C=C to a radical anion, which attacks CO2; a second cathodic one-electron reduction generates a carbanion that is carboxylated again or protonated.", "key_intermediates": [{"name": "cinnamate radical anion (B)", "smiles": null, "role": "reactive"}, {"name": "benzylic radical from protonation of B (C)", "smiles": null, "role": "reactive"}, {"name": "carboxylated radical anion D (from B + CO2)", "smiles": null, "role": "reactive"}, {"name": "α-ester radical E (from C + CO2, after e-)", "smiles": null, "role": "transient"}, {"name": "carbanion F (from second reduction of D)", "smiles": null, "role": "reactive"}, {"name": "monocarboxylic acid product H (F + H+)", "smiles": null, "role": "off_pathway"}, {"name": "dicarboxylic acid product I (F + CO2)", "smiles": null, "role": "off_pathway"}, {"name": "monocarboxylic acid product G (from E pathway)", "smiles": null, "role": "off_pathway"}], "electron_flow": "Cathode delivers one electron to the cinnamate ester to form a radical anion, which either adds to CO2 (major) or is protonated to a benzylic radical (minor); a second cathodic electron reduces these to carbanions that are trapped by CO2 (giving dicarboxylate) or by H+ (giving monocarboxylate), while the Mg anode is sacrificially oxidized.", "rate_determining_step": "First one-electron reduction of the cinnamate ester to the radical anion", "probe_reagents": [{"name": "CO2 saturation in CV experiment", "smiles": "O=C=O", "purpose": "intermediate_trap", "observation": "First reduction peak shifts positive and current increases (ip/ip0 ≈ 1.76–1.96), indicating reaction of the electrogenerated radical anion with CO2."}], "evidence_types_used": ["cyclic_voltammetry", "intermediate_trap_other", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "Two competing branches diverge at the radical anion B: nucleophilic addition to CO2 (major, leading to F and then dicarboxylic acid I or monocarboxylic acid H) vs protonation to benzylic radical C (minor, giving monocarboxylic acid G after further reduction/CO2 capture). Authors argue carbanion F is sterically hindered, so H+ trapping outcompetes a second CO2 addition, accounting for the mixture of mono- and dicarboxylic products."}
